US07253194B2
4-Amino-5-(4-benzyloxy-phenyl)-pent-2-enoic acid methyl ester (41)
(R)-5-(4-Benzyloxy-phenyl)-4-tert-butoxycarbonylamino-pent-2-enoic acid methyl ester (3.0 g, 0.0073 mol) was added to TFA (10 ml) at 0° C. with stirring. After 10 min, ice was added, and the mixture extracted into EtOAc. The extracts were washed with K2CO3 solution (20% w/v) and brine, dried with MgSO4, and evaporated to afford 2.23 g (98%) of the title compound.

reactant | (R)-5-(4-Benzyloxy-phenyl)-4-tert-butoxycarbonylamino-pent-2-enoic acid methyl ester | 0.0073 mol, 3.0 g | COC(C=C[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C24H29NO5
solvent | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-Amino-5-(4-benzyloxy-phenyl)-pent-2-enoic acid methyl ester | 2.23 g, 98% | COC(C=CC(CC1=CC=C(C=C1)OCC1=CC=CC=C1)N)=O | C19H21NO3
